US08242133B2
A mixture of 0.35 g of 3,5-dichloro-N-(2-hydroxy-5-trifluoromethylphenyl)isonicotinamide, 5 ml of carbon tetrachloride, 0.78 g of triphenylphosphine and 0.30 g of triethylamine was heated to reflux for three hours. The mixture was cooled to room temperature, and then water was added to the mixture, followed by extraction with ethyl acetate twice. The combined organic layers were washed with a saturated sodium chloride solution, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.18 g of 2-(3,5-dichloropyridin-4-yl)-5-(trifluoromethyl)benzoxazole (hereinafter, referred to as “active compound 17”).

reactant | 3,5-dichloro-N-(2-hydroxy-5-trifluoromethylphenyl)isonicotinamide | 0.35 g | ClC1=C(C(=O)NC2=C(C=CC(=C2)C(F)(F)F)O)C(=CN=C1)Cl | C13H7Cl2F3N2O2
reactant | carbon tetrachloride | 5 ml | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | triphenylphosphine | 0.78 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 0.30 g | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | 2-(3,5-dichloropyridin-4-yl)-5-(trifluoromethyl)benzoxazole | 0.18 g | ClC=1C=NC=C(C1C=1OC2=C(N1)C=C(C=C2)C(F)(F)F)Cl | C13H5Cl2F3N2O
